US04156670
Preparation of (-)-4,5,6,7-tetrahydro-7-hydroxybenzo[b]thien-4-ylurea, isomers A and B
In 2.5 liters of ethanol, 34.85 grams of (-)-4,5,6,7-tetrahydro-7-oxobenzo[b]thien-4-ylurea is stirred and 9.8 grams of NaBH4 is added. The mixture is stirred overnight at room temperature, 1400 ml. of water is added, and after stirring for 0.5 hour the ethanol is evaporated in vacuo. The mixture is cooled and 25-30 ml. of acetic acid is added until no more foaming occurs. The mixture is stirred for 0.75 hour, filtered to collect the first crop and this solid is washed with water and air dried. This solid is recrystallized from acetone and then from acetone/methanol to give 6.75 g. of isomer B of the title compound, m.p. 211°-213° C. (dec.), [α]D25.5 =-23.23° (c, 3.11 in methanol). This material contains 92% isomer B and 8% isomer A when assayed by high pressure liquid chromatography.

reactant | (-)-4,5,6,7-tetrahydro-7-oxobenzo[b]thien-4-ylurea | 34.85 grams | O=C1CCC(C2=C1SC=C2)NC(=O)N | C9H10N2O2S
reactant | NaBH4 | 9.8 grams | [BH4-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 2.5 liters | C(C)O | C2H6O
solvent | methanol | CO | CH4O
product | (-)-4,5,6,7-tetrahydro-7-hydroxybenzo[b]thien-4-ylurea | OC1CCC(C2=C1SC=C2)NC(=O)N | C9H12N2O2S
